US08044213B2
A mixture of 0.072 g (0.138 mmole) of 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(4-trifluoromethyl-phenyl)thiazole-5-carboxylic acid amide (VI.47c), 0.0696 g of 10% palladium on carbon catalyst, and 6 mL of 96% formic acid was stirred under one atmosphere of hydrogen for 17 hours. The mixture was filtered through Diatomaceous earth and the filter pad was washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure. The residue was purified by reverse phase silica gel chromatography, eluting with acetonitrile-water-trifluoroacetic acid (gradient 10:90:0.1-60:40:0.1) to give 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-(4-trifluoromethyl-phenyl)thiazole-5-carboxylic acid amide trifluoroacetic acid salt (I.47a). This salt was partitioned between 10 mL of saturated sodium carbonate solution and 150 mL of ethyl acetate. The organic layer was washed with 15 mL of water, then 15 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.0401 g of 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-(4-trifluoromethyl-phenyl)thiazole-5-carboxylic acid amide (I.47) as a white solid. MH+/Z=501.

reactant | 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(4-trifluoromethyl-phenyl)thiazole-5-carboxylic acid amide | 0.138 mmole, 0.072 g | CN1CCN(CC1)CC=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C23H23F3N6O3S
reactant | hydrogen | [H][H] | H2
reactant | formic acid | 6 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.0696 g | [Pd] | Pd
product | 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-(4-trifluoromethyl-phenyl)thiazole-5-carboxylic acid amide trifluoroacetic acid salt | FC(C(=O)O)(F)F.CN1CCN(CC1)CC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=C(C=C2)C(F)(F)F)C(=O)N)C1 | InChI=1S/C24H23F3N6OS.C2HF3O2/c1-31-8-10-32(11-9-31)13-15-2-7-18-19(12-15)33(14-29-18)23-30-20(21(35-23)22(28)34)16-3-5-17(6-4-16)24(25,26)27;3-2(4,5)1(6)7/h2-7,12,14H,8-11,13H2,1H3,(H2,28,34);(H,6,7)
